US06077866
An acetone solution (500 ml) of 4-bromomethyl-4'-chlorobenzophenone (31 g) and thiourea (10 g) was heated for 30 minutes with refluxing. The precipitated crystals were then collected by filtration and washed with acetone to obtain S-(4-(4-chlorobenzoyl)benzyl)thiouronium bromide (33 g).

reactant | 4-bromomethyl-4'-chlorobenzophenone | 31 g | BrCC1=CC=C(C(=O)C2=CC=C(C=C2)Cl)C=C1 | C14H10BrClO
reactant | thiourea | 10 g | NC(=S)N | CH4N2S
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | S-(4-(4-chlorobenzoyl)benzyl)thiouronium bromide | 33 g | [Br-].ClC1=CC=C(C(=O)C2=CC=C(CSC(=[NH2+])N)C=C2)C=C1 | InChI=1S/C15H13ClN2OS.BrH/c16-13-7-5-12(6-8-13)14(19)11-3-1-10(2-4-11)9-20-15(17)18;/h1-8H,9H2,(H3,17,18);1H
